Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.2819892557699974
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.72336701496
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],2.63617786811
[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-6.75003142059
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][O:2][C:3](=[C:4][H:5])[O:12][C:9]([C:6]([H:7])[H:8])([H:10])[H:11],4.411798837709999
[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10],2.52959813589
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.71915117442
[C:2][C:3]([H:4])([H:5])[H:6].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[H:6],-3.71450151809
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11][O:12]1>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[O:12],-2.53740024493
[C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-7.247769467699999
[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.37738869737
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:9],4.14968530056
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.99448287126
[H:1][C:2]([H:3])[O:4][C@@:5]12[O:6][C@@:7]1([H:8])[C:9]2[H:10]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:9](/[C:7](=[O:6])[H:8])[H:10],-0.33312088919
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.582227957390001
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:4].[O:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],3.1230935090200003
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[O:2],1.53419154724
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],1.94091561721
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]=[C:10]([H:11])[H:12].[H:9],3.4704877729000003
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]=[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],2.62545766206
[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10]>>[C:3]([H:4])=[C:5]([C:6]#[C:7][H:8])[O:9][H:10].[H:1][C:2],6.21947826206
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3][H:4],1.91390273086
[C:1]#[C:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],2.80955345052
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5],3.99140981439
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:15]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.9661703817
[H:12].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.413331808080001
[H:1][C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-4.07899448785
